datasets/RMG-dataset.csv
rxn,Ea
[O:0][O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:2](=[C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[O:0]([O:1])[H:10],120.9176
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],34.0996
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21][C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:21](=[C:20]([H:23])[H:24])[C:22]([H:25])([H:26])[H:27])[H:13])[H:12])([H:10])[H:11],5.81576
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]=[S:10])([H:11])([H:12])[H:13]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:11])([H:12])[H:13])=[S:10],60.668
[O:0][O:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18]>>[C:2]1([H:8])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18].[O:0]([O:1])[H:9],138.072
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([O:9][C:10]=[O:11])([H:12])([H:13])[H:14]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][C:10]([O:9][C:8]([H:12])([H:13])[H:14])=[O:11],43.5136
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],47.1537
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19][H:20]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19],-13.7026
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:16])[H:7])([H:5])[H:6].[S:12]=[C:13]([S:14])[H:15],45.6056
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15],85.772
[C:0]([C:1](=[C:2]([H:14])[H:15])[C:3](=[C:4]([H:16])[H:17])[C:5](=[C:6]([H:18])[H:19])[C:7](=[C:8]([H:20])[H:21])[O:9][O:10][C:11]([H:22])([H:23])[H:24])([H:12])[H:13]>>[C:0]1([H:12])([H:13])[C:1](=[C:2]([H:14])[H:15])[C:3](=[C:4]([H:16])[H:17])[C:5](=[C:6]([H:18])[H:19])[C:7](=[C:8]([H:20])[H:21])[O:9]1.[O:10][C:11]([H:22])([H:23])[H:24],7.5312
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],22.1752
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[C:4]([H:12])[H:13])[H:11])[H:7])([H:5])[H:6].[O:14][O:15]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[C:4]([H:12])[H:13])[H:11])([H:5])[H:6].[H:7][O:14][O:15],0.0
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13],11.7152
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][O:18],209.86944
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10][H:11]>>[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][O:10][H:11],0.0
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],11.7989
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])([H:9])[H:18],27.3215
